US04868301
Methyl-3-hydroxymethyl-4-oxo-3-H-phthalazin-1-ylacetate
A mixture of methyl-4-oxo-3-H-phthalazin-1-ylacetate (2.18 g), methanol (50 ml) and aqueous formaldehyde (37% concentration, 10 ml) was refluxed for 40 hours. The reaction mixture was cooled to room temperature and then poured onto water (50 ml). The resulting solid was collected and crystallized from methanol (yield: 0.5 g; m.p. 154°-155° C.).

reactant | methyl-4-oxo-3-H-phthalazin-1-ylacetate | 2.18 g | COC(CC1=NNC(C2=CC=CC=C12)=O)=O | C11H10N2O3
reactant | formaldehyde | 10 ml | C=O | CH2O
solvent | methanol | 50 ml | CO | CH4O
product | Methyl-3-hydroxymethyl-4-oxo-3-H-phthalazin-1-ylacetate | COC(CC1=NN(C(C2=CC=CC=C12)=O)CO)=O | C12H12N2O4
